US06987115B2
Preparation of 4-(1,2,3,4-tetrahydrobeta-carbolinyl)phenol
To a stirred solution of tryptamine (5.0 g, 31.2 mmole) in dry CH2Cl2 (100 mL) at RT was added 4-hydroxybenzaldehyde (3.81 g, 31.2 mmole) followed by dropwise addition of trifluoroacetic acid (7.11 g, 62.4 mmole). After 12 hr, the reaction solution was washed with 10% aqueous NaHCO3 (100 mL), H2O (100 mL) and brine. The organic solution was dried over Na2SO4 and concentrated under reduced pressure to give a yellow oil. The yellow residue was washed with hexanes and dried under high vacuum to afford the title compound (7.74 g, 94%) as a light yellow solid: MS (ES) m/e 265 (M+H)+.

reactant | tryptamine | 31.2 mmole, 5.0 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 4-hydroxybenzaldehyde | 31.2 mmole, 3.81 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | trifluoroacetic acid | 62.4 mmole, 7.11 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(1,2,3,4-tetrahydrobeta-carbolinyl)phenol | 7.74 g, 94% | C1(NCCC=2C3=CC=CC=C3NC12)C1=CC=C(C=C1)O | C17H16N2O
